US04900744
8-(4,5-Diphenyl-1H-imidazol-2-ylthio)octanoic acid
To a solution of 5.0 g (0.012 mole) 8-(4,5-diphenyl-1H-imidazol-2-ylthio)octanoic acid ethyl ester in 125 ml ethanol was added, dropwise, a solution of 5.0 g sodium hydroxide in 125 ml water. The reaction mixture was stirred at reflux under nitrogen for 4 hours. The solvent was concentrated to half the volume and the remaining solution was extracted with diethyl ether. This organic layer was discarded. The aqueous layer was acidified to pH=1.0 using 1N hydrochloric acid and then extracted with diethyl ether. The organic layer was dried over magnesium sulfate and the solvent removed under vacuum. The resulting solid was crystallized from ethanol and triturated with hexane to give 2.13 g (0.005 mole) of the title compound as a white solid, mp=160°-162° C. 1H NMR(DMSO-d6): δ12.7(s,1H), 12.0(s,1H), 7.6-7.1(m,10H), 3.1(t,2H,J=7Hz), 2.3(t,2H,J=7Hz), 1.8-1.2 (m,10H).

reactant | 8-(4,5-diphenyl-1H-imidazol-2-ylthio)octanoic acid ethyl ester | 0.012 mole, 5.0 g | C(C)OC(CCCCCCCSC=1NC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)=O | C25H30N2O2S
reactant | sodium hydroxide | 5.0 g | [OH-].[Na+]
solvent | ethanol | 125 ml | C(C)O | C2H6O
solvent | water | 125 ml | O | H2O
product | 8-(4,5-Diphenyl-1H-imidazol-2-ylthio)octanoic acid | 0.005 mole, 2.13 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)SCCCCCCCC(=O)O | C23H26N2O2S
